US04588719
5-(3-Phthalimidopropoxy)-1-(N-morpholinyl)-1,2,3,4-tetrahydronaphthalene
Potassium t-butoxide (7.8 g) is added to a stirred solution of 5-hydroxy-1-morpholinyl-1,2,3,4-tetrahydronaphthalene (14.7 g) dissolved in dimethylformamide (150 ml) and the reaction solution stirred for a few minutes. N-(3-bromopropyl) phthalimide (33.8 g) is added to the reaction mixture and stirring is continued at RT for 2 days. The reaction mixture is partitioned between H2O and ether, the layers separated and the aqueous layer adjusted to a pH>10 with sodium hydroxide solution and extracted with additional diethyl ether. The combined ether layers are washed with H2O and aqueous 5% hydrochloric acid. The acidic aqueous extracts are made strongly alkaline with sodium hydroxide solution, resulting in an oily precipitate which is extracted with ether and methylene chloride. The combined organic layers are washed with 5% aqueous sodium hydroxide and saturated sodium chloride, dried over sodium sulfate, filtered, and evaporated, resulting in 22.6 g of an amber oil as the crude product used in the next step.

reactant | Potassium t-butoxide | 7.8 g | CC(C)([O-])C.[K+]
reactant | 5-hydroxy-1-morpholinyl-1,2,3,4-tetrahydronaphthalene | 14.7 g | OC1=C2CCCC(C2=CC=C1)N1CCOCC1 | C14H19NO2
reactant | N-(3-bromopropyl) phthalimide | 33.8 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-(3-Phthalimidopropoxy)-1-(N-morpholinyl)-1,2,3,4-tetrahydronaphthalene | 22.6 g | C1(C=2C(C(N1CCCOC1=C3CCCC(C3=CC=C1)N1CCOCC1)=O)=CC=CC2)=O | C25H28N2O4
